US06204221B1
3-(3-Fluoro-5-chloro-2-pyridyl)-4-iodo-5-difluoromethoxy-1-methyl-[1H]-pyrazole
3.0 g of 3-(3-fluoro-5-chloro-2-pyridyl)-5-difluoromethoxy-1-methyl-[1H]-pyrazole (Example H15) are dissolved in 30 ml of methylene chloride, and 1.83 g of silver(I) nitrite and 3.02 g of iodine are then added. The mixture is stirred overnight at 22° C. It is then diluted with diethyl ether and extracted successively with aqueous sodium metabisulfite solution and brine. After drying of the organic phase over sodium sulfate and filtration, the filtrate is concentrated in vacuo together with twice the amount of silica gel. After application of this silica gel to a flash column, the column is eluted with n-hexane/ethyl acetate (3/1). 3.97 g of the desired title compound are obtained as a beige solid of melting point 77-78° C. in this manner.

reactant | 3-(3-fluoro-5-chloro-2-pyridyl)-5-difluoromethoxy-1-methyl-[1H]-pyrazole | 3.0 g | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1)OC(F)F)C | C10H7ClF3N3O
reactant | iodine | 3.02 g | II | I2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | silver(I) nitrite | 1.83 g | N(=O)[O-].[Ag+]
product | 3-(3-Fluoro-5-chloro-2-pyridyl)-4-iodo-5-difluoromethoxy-1-methyl-[1H]-pyrazole | 3.97 g | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1I)OC(F)F)C | C10H6ClF3IN3O
